US04663336
A. 2-(Hexanoylamino)-2-methylpropionic acid
2-Aminoisobutyric acid (2.0 g, 19.4 mmol) and n-hexanoyl chloride (3.0 g, 22.4 mmol) were reacted in the presence of NaOH (1.6 g, 40 mmol) in a mixture of ether and water using the method described in Example 5, Part A. The title compound (1.90 g, 49%) was obtained after crystallization from benzene, m.p. 141°-143° C.

reactant | 2-Aminoisobutyric acid | 19.4 mmol, 2.0 g | NC(C(=O)O)(C)C | C4H9NO2
reactant | n-hexanoyl chloride | 22.4 mmol, 3.0 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | NaOH | 40 mmol, 1.6 g | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-(Hexanoylamino)-2-methylpropionic acid | 1.90 g, 49% | C(CCCCC)(=O)NC(C(=O)O)(C)C | C10H19NO3
